* gnetlist -g spice-noqsi -o gyrator.net gyrator.sch
* SPICE file generated by spice-noqsi version 20170819
* Send requests or bug reports to jpd@noqsi.com
.subckt GYRATOR X1.IN 1
V_IP_X1 2 1 DC 0V  
V_IP_Gm2 3 X1.IN DC 0V  
*
*
G2 3 GND 1 GND -20m
CL GND 1 0.07pF      
.ENDS
