* gnetlist -g spice-noqsi -o gyrator.net gyrator.sch
* SPICE file generated by spice-noqsi version 20170819
* Send requests or bug reports to jpd@noqsi.com
.subckt GYRATOR X1.IN
V_IP_X1 G1_out G2_in DC 0V  
V_IP_Gm2 G2_out X1.IN DC 0V  
*
G2 G2_out GND G2_in GND -20m
G1 G1_out GND X1.IN GND 20m
CL GND G2_in 0.07pF      
.ENDS
